US08957068B2
Into a 20 ml microwave vial was weighted 1-(pyridin-2-yl)propan-2-one ligand (90 mg, 0.665 mmol), phenol (407 mg, 4.32 mmol), CuBr (47.7 mg, 0.332 mmol) and Cs2CO3 (2166 mg, 6.65 mmol). To the mixture was added DMSO (5 ml) and (S)-1-(3-bromophenyl)ethanamine (0.5 ml, 3.32 mmol). The tube was flushed with N2, capped, and the black mixture heated in the oil bath at 90° C. for 18 hours. The heterogenous mixture was diluted with EtOAc and filtered through a glass-fritted funnel, eluting with EtOAc and another 5 mls of DMSO. The volatiles were then removed in vacuo and the crude brown liquid was filtered through 1 μm PTFE filter and purified by reverse phase HPLC. The combined product fractions were desalted by addition of equal amount of EtOAc and about 250 mg Na2CO3 in a separatory funnel. The phases were separated and the organic washed with brine, dried over MgSO4, filtered and concentrated in vacuo to yield (S)-1-(3-phenoxyphenyl)ethanamine (361.5 mg, 1.678 mmol, 50.5% yield) as an amber oil. LCMS m/z 214.1 (M+H)+, Rt 0.61 min.

reactant | 1-(pyridin-2-yl)propan-2-one | 0.665 mmol, 90 mg | N1=C(C=CC=C1)CC(C)=O | C8H9NO
reactant | phenol | 4.32 mmol, 407 mg | C1(=CC=CC=C1)O | C6H6O
reactant | Cs2CO3 | 6.65 mmol, 2166 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | (S)-1-(3-bromophenyl)ethanamine | 3.32 mmol, 0.5 ml | BrC=1C=C(C=CC1)[C@H](C)N | C8H10BrN
solvent | DMSO | 5 ml | CS(=O)C | C2H6OS
product | (S)-1-(3-phenoxyphenyl)ethanamine | 1.678 mmol, 361.5 mg, 50.5% yield | O(C1=CC=CC=C1)C=1C=C(C=CC1)[C@H](C)N | C14H15NO
